US05556968
Synthesis of 1,4,7-tris(carboxymethyl)-9,16-dioxo-1,4,7,10,15-pentaazacycloheptadecane (DTPABAM)
A 1 L three-neck flask was charged with 340 mL of dry DMF. Two syringes were charged separately with solutions of diethylenetriaminepentaacetic acid dianhydride (3.00 g, 8.40 mmol) in 100 mL of DMF and 1,4-diaminobutane (0.740 g, 8.40 mmol) in DMF/DBN, (96 mL/4 mL). The solutions were added simultaneously at ambient temperature to the flask at a rate of 30 mL/hour. After the addition was complete, the reaction mixture was allowed to stir overnight, stripped to dryness, and 1N HCl added to adjust the pH to 10.4. The solution was applied to AG1-X8 (100-200 mesh, OAc-) resin and eluted with 0.5N acetic acid to yield 0.52 g (13.6%) as a white solid, after removal of acetic acid and lyophilization.

reactant | diethylenetriaminepentaacetic acid dianhydride | 8.40 mmol, 3.00 g | C1C(=O)OC(=O)CN1CC[NH+](CCN2CC(=O)OC(=O)C2)CC(=O)[O-] | C14H19N3O8
reactant | 1,4-diaminobutane | 8.40 mmol, 0.740 g | NCCCCN | C4H12N2
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF DBN | CN(C)C=O.C1CC2=NCCCN2C1
solvent | DMF | 340 mL | CN(C)C=O | C3H7NO
product | 1,4,7-tris(carboxymethyl)-9,16-dioxo-1,4,7,10,15-pentaazacycloheptadecane | C(=O)(O)CN1CCN(CCN(CC(NCCCCNC(C1)=O)=O)CC(=O)O)CC(=O)O | C18H31N5O8
